US08686048B2
Intermediate 40: 3,5-difluoro-3′,4′-dimethoxybiphenyl-4-amine
The title compound (39 mg) was prepared from 4-bromo-2,6-difluoroaniline (100 mg, 0.48 mmol) and 3,4-dimethoxyphenylboronic acid (113 mg, 0.62 mmol) as a pale-yellow solid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.25 (dd, J 2, 8.3, 2H), 7.18-7.10 (m, 2H), 6.94 (d, J 8.4, 1H), 5.21 (s, 2H), 3.81 (s, 3H), 3.75 (s, 3H).

reactant | 4-bromo-2,6-difluoroaniline | 0.48 mmol, 100 mg | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | 3,4-dimethoxyphenylboronic acid | 0.62 mmol, 113 mg | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
product | 3,5-difluoro-3′,4′-dimethoxybiphenyl-4-amine | 39 mg | FC=1C=C(C=C(C1N)F)C1=CC(=C(C=C1)OC)OC | C14H13F2NO2
